US08211908B2
To a solution of 0.65 g of tert-butyl 3-(aminomethyl)piperidine-1-carboxylate in 5 mL of dichloromethane, 0.50 g of (2,3-dihydro(1,4)dioxino(2,3-c)pyridine-7-carbaldehyde and 0.17 mL of acetic acid were added. Subsequently, 0.96 g of sodium triacetoxyborohydride was added thereto and the mixture was stirred at room temperature for 1 hour 15 minutes. The reaction mixture was charged with chloroform and adjusted to pH 8.6 with a saturated aqueous sodium hydrogen carbonate solution and a 20% aqueous sodium hydroxide solution, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 1.3 g of tert-butyl 3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidine-1-carboxylate as a yellow oily substance.

reactant | tert-butyl 3-(aminomethyl)piperidine-1-carboxylate | 0.65 g | NCC1CN(CCC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 2,3-dihydro(1,4)dioxino(2,3-c)pyridine-7-carbaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 0.96 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.17 mL | C(C)(=O)O | C2H4O2
product | tert-butyl 3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidine-1-carboxylate | 1.3 g | O1CCOC=2C=NC(=CC21)CNCC2CN(CCC2)C(=O)OC(C)(C)C | C19H29N3O4
